US09023846B2
The compound was prepared according to the procedure as described in Gilman, H., et al., J. Am. Chem. Soc., 1939, Vol. 61, pp 473-478, more particular according the general procedure on page 467-477) from methyl 5-bromofuran-2-carboxylate (5.00 g, 24.4 mmol), 1-bromooctadecane (8.13 g, 24.4 mmol), and anhydrous AlCl3 (6.50 g, 48.8 mmol) in CS2 (50 mL) to yield methyl 5-bromo-4-tert-butyl-furan-2-carboxylate. 1H-NMR (400 MHz, CDCl3) δ: 7.12 (s, 1H), 3.88 (s, 3H), 1.33 (s, 9H).

reactant | methyl 5-bromofuran-2-carboxylate | 24.4 mmol, 5.00 g | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
reactant | 1-bromooctadecane | 24.4 mmol, 8.13 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | AlCl3 | 48.8 mmol, 6.50 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | CS2 | 50 mL | C(=S)=S | CS2
product | methyl 5-bromo-4-tert-butyl-furan-2-carboxylate | BrC1=C(C=C(O1)C(=O)OC)C(C)(C)C | C10H13BrO3
